US04112119
By substituting N-(3-benzoylthiopropanoyl)-L-leucine (6.46 g.) for the N-(3-benzoylthiopropanoyl)-L-alanine in the procedure of Example 2, 2.75 g. of N-(3-mercaptopropanoyl)-L-leucine are obtained, m.p. 131°-132°. This material is recrystallized from acetonitrile.

reactant | N-(3-benzoylthiopropanoyl)-L-leucine | 6.46 g | C(C1=CC=CC=C1)(=O)SCCC(=O)N[C@@H](CC(C)C)C(=O)O | C16H21NO4S
reactant | N-(3-benzoylthiopropanoyl)-L-alanine | C(C1=CC=CC=C1)(=O)SCCC(=O)N[C@@H](C)C(=O)O | C13H15NO4S
product | N-(3-mercaptopropanoyl)-L-leucine | SCCC(=O)N[C@@H](CC(C)C)C(=O)O | C9H17NO3S
